US08071774B2
i) 1-Benzyl-3-(2,4-dimethoxy-phenyl)-2-oxo-piperidine-3-carboxylic acid methyl ester
A solution of 1 mmol of 1-benzyl-3-(2,4-dimethoxy-phenyl)-piperidin-2-one [597553-90-7] in 20 ml of tetrahydrofuran is cooled to −70° C. and treated drop wise with a solution of 1.2 mmol of lithium diisopropyl-amide in 5 ml of tetrahydrofuran. The mixture is stirred 15 minutes at −70° C. A solution of 1.2 mmol of methyl chloroformate in 5 ml of tetrahydrofuran is added at −70° C. and the reaction mixture is allowed to come to room temperature over a period of 7 hours. The reaction mixture is quenched with water and extracted with tert-butyl methyl ether (3×). The combined organic phases are dried with sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 1-benzyl-3-(2,4-dimethoxy-phenyl)-piperidin-2-one | 1 mmol | C(C1=CC=CC=C1)N1C(C(CCC1)C1=C(C=C(C=C1)OC)OC)=O | C20H23NO3
reactant | lithium diisopropyl-amide | 1.2 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl chloroformate | 1.2 mmol | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-3-(2,4-dimethoxy-phenyl)-2-oxo-piperidine-3-carboxylic acid methyl ester | COC(=O)C1(C(N(CCC1)CC1=CC=CC=C1)=O)C1=C(C=C(C=C1)OC)OC | C22H25NO5
